US05639914
10.6 g (0.071 mol) of p-tertiarybutylaniline was dissolved in 19 ml of glacial acetic acid. 8.0 g (0.078 mol) of acetic anhydride was then added dropwise to the solution at a temperature of 30° C. After the completion of dropwise addition, the reaction mixture was then allowed to undergo reaction at a temperature of 40° C. for 3 hours. The reaction solution was then poured into 200 ml of water. The resulting crystal was filtered off, washed with water, and then dried to obtain 13.5 g (yield: 99.9%) of p-tertiarybutylacetanilide. The melting point of the crystal was from 172.5° C. to 173.5° C.

reactant | p-tertiarybutylaniline | 0.071 mol, 10.6 g | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | acetic anhydride | 0.078 mol, 8.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 200 ml | O | H2O
solvent | acetic acid | 19 ml | C(C)(=O)O | C2H4O2
product | p-tertiarybutylacetanilide | 13.5 g, yield: 99.9% | C(C)(C)(C)C1=CC=C(NC(C)=O)C=C1 | C12H17NO
